US04263437
To 70 mg of (10,11-dihydro dibenzo[b,f]thiepin-2-yl)-acetic acid was added 3 ml of ethanol containing 7% hydrogen chloride, and the mixture was stirred under a dry atmosphere at room temperature for 2 hours. To this was added water, and the mixture was extracted with ethyl acetate. The extract was washed with a saturated sodium hydrogen carbonate solution and then with a saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure to obtain a residue, which was chromatographed over 7 g of silica gel and eluted with n-hexane/acetone (10/1), thereby yielding 70 mg (yield: 91%) of ethyl (10,11-dihydro dibenzo[b,f]thiepin-2-yl)-acetate as a yellow oil.

reactant | (10,11-dihydro dibenzo[b,f]thiepin-2-yl)-acetic acid | 70 mg | C1=C(C=CC=2SC3=C(CCC21)C=CC=C3)CC(=O)O | C16H14O2S
reactant | ethanol | 3 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | ethyl (10,11-dihydro dibenzo[b,f]thiepin-2-yl)-acetate | 70 mg, yield: 91% | C1=C(C=CC=2SC3=C(CCC21)C=CC=C3)CC(=O)OCC | C18H18O2S
